US08866135B2
In the atmosphere of argon, 18.2 g of 2,3-dimethoxyphenylboronic acid, 17.5 g of 2-fluorobromobenzene, 2.31 g of tetrakistriphenylphosphine palladium (0), 300 mL of 1,2-dimethoxyethane and 150 mL of an aqueous 2M sodium carbonate solution were placed in a flask. The resulting mixture was stirred with heating under reflux for 8 hours. After cooling to room temperature, an aqueous phase was removed, and an organic phase was washed with saturated saline. The organic phase was dried with magnesium sulfate and then concentrated. Residues were purified by silica gel column chromatography, whereby 19.7 g of (yield 85%) of 2′-fluoro-2,3-dimethoxybiphenyl was obtained.

reactant | 2,3-dimethoxyphenylboronic acid | 18.2 g | COC1=C(C=CC=C1OC)B(O)O | C8H11BO4
reactant | 2-fluorobromobenzene | 17.5 g | FC1=C(C=CC=C1)Br | C6H4BrF
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 300 mL | COCCOC | C4H10O2
product | 2′-fluoro-2,3-dimethoxybiphenyl | 19.7 g, yield 85% | FC1=C(C=CC=C1)C1=C(C(=CC=C1)OC)OC | C14H13FO2
